US06310099B1
5-Ethyl-2-iodophenylacetic acid is dissolved in methylene chloride (400 ml) and DMF (1 ml) is added. Thionyl chloride (21 ml, 300 mmol) is then added dropwise over 20 minutes. The mixture is heated to reflux and heating continued for 3.5 hours when the mixture is cooled and ice-water (400 ml) and methylene chloride (300 ml) are added. The layers are separated, the organic layer is washed with a sodium bicarbonate solution, saturated brine, dried (magnesium sulfate), and evaporated under reduced pressure to yield 5-ethyl-2-iodophenylacetyl chloride.

reactant | 5-Ethyl-2-iodophenylacetic acid | C(C)C=1C=CC(=C(C1)CC(=O)O)I | C10H11IO2
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | Thionyl chloride | 300 mmol, 21 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 5-ethyl-2-iodophenylacetyl chloride | C(C)C=1C=CC(=C(C1)CC(=O)Cl)I | C10H10ClIO
